US07304081B2
(1R)-1′-({1-[4-(1,3-Thiazol-4-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
Isoamyl nitrite (10.0 μL) was added to a solution of (1R)-1′-({1-[4-(2-amino-1,3-thiazol-4-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (25.0 mg, 0.06 mmol) in 1,4-dioxane (1.0 mL), and the reaction mixture was stirred at 80° C. for 2 hours. Then the solvent from the mixture was removed and the crude product was purified by prep-HPLC. LC-MS: 417.1 (M+H)+.

reactant | Isoamyl nitrite | 10.0 μL | N(=O)OCCC(C)C | C5H11NO2
reactant | (1R)-1′-({1-[4-(2-amino-1,3-thiazol-4-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | 0.06 mmol, 25.0 mg | NC=1SC=C(N1)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C24H21N3O3S
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | (1R)-1′-({1-[4-(1,3-Thiazol-4-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | S1C=NC(=C1)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C24H20N2O3S
